US04732845
In a mixture of 40 ml of pyridine and 300 ml of acetonitrile was dissolved 82.5 g of 4-aminobenzoic acid ethyl ester and then 137.5 g of 2-hexyldecanoyl chloride was added dropwise to the solution thus formed at room temperature over a period of about 30 minutes. Thereafter, after keeping the mixture at 50° C. for 2 hours, the reaction mixture was allowed to cool and extracted with a mixture of ethyl acetate and an aqueous hydrochloric acid solution. The extract thus obtained was dried by magnesium sulfate and concentrated to provide 188 g of oily 4-(2-hexyldecanamido)benzoic acid ethyl ester.

reactant | 4-aminobenzoic acid ethyl ester | 82.5 g | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
reactant | 2-hexyldecanoyl chloride | 137.5 g | C(CCCCC)C(C(=O)Cl)CCCCCCCC | C16H31ClO
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 4-(2-hexyldecanamido)benzoic acid ethyl ester | 188 g | C(C)OC(C1=CC=C(C=C1)NC(C(CCCCCCCC)CCCCCC)=O)=O | C25H41NO3
